US06187914B1
6) Synthesis of 5′-O-p-Nitrobenzoyl-2-N-t-Butylphenoxyacetyldeoxyguanosine
The synthesis of this product is carried out by reacting 1.1 eq of p-nitrobenzoyl chloride with 2-N-t-butylphenoxyacetyldeoxyguanosine for 16 hours in pyridine. After extraction with a dichloromethane/methanol mixture and evaporation to dryness, the product is taken up in chloroform/hexane (8/2) and purified on a silica column (elution 3% methanol). The product obtained is very soluble in organic solvents.

reactant | p-nitrobenzoyl chloride | 1.1 eq | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 2-N-t-butylphenoxyacetyldeoxyguanosine | C(C)(C)(C)NC=1NC(C=2N=CN([C@]3(C[C@H](O)[C@@H](CO)O3)C(COC3=CC=CC=C3)=O)C2N1)=O | C22H27N5O6
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5′-O-p-Nitrobenzoyl-2-N-t-Butylphenoxyacetyldeoxyguanosine | [N+](=O)([O-])C1=CC=C(C(=O)OC[C@@H]2[C@H](C[C@@](O2)(N2C=NC=3C(=O)NC(NC(C)(C)C)=NC23)C(COC2=CC=CC=C2)=O)O)C=C1 | C29H30N6O9
